US06211234B1
A solution of methyl (RS)-5-[3-benzyloxy-5-(4-methoxybenzyloxy)phenyl]-4-(2-methylphenyl)-5-oxopentanoate (0.54 g) in dichloromethane (10 mL), pH 7.3 phosphate buffer and tert-butanol (0.1 mL) is treated at 0° C. with 2,3-dichloro-5,6-dicyanobenzoquinone (0.34 g) and stirred at ambient temperature for 48 hours. It is then diluted with water (100 mL) and extracted with dichloromethane (3×30 mL). The combined organic extracts are washed with brine (50 mL), dried over magnesium sulphate and concentrated. The resulting oil (0.4 g) is dissolved in a solution of potassium hydroxide in methanol (20 mL; 15% w/v) and heated at reflux for 5 hours and is then allowed to cool. The mixture is concentrated, diluted with water (30 mL) and acidified to pH1 by treatment with concentrated hydrochloric acid. The mixture is extracted with ethyl acetate (3×50 mL) and the combined organic extracts are washed with brine and dried over magnesium sulphate, and concentrated. The resulting residue is chromatographed on silica gel, eluting with a mixture of ethyl acetate and pentane (1:1 v/v). The resulting oil is triturated with a mixture of diisopropyl ether and pentane, to give (RS)-5-(3-benzyloxy-5-hydroxyphenyl)-4-(2-methylphenyl)-5-oxopentanoic acid in the form of a white solid (80 mg), m.p. 116-117° C. [Elemental analysis:- C,73.80; H,5.90%; Calculated:- C,74.24;H,5.98%].

reactant | methyl (RS)-5-[3-benzyloxy-5-(4-methoxybenzyloxy)phenyl]-4-(2-methylphenyl)-5-oxopentanoate | 0.54 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)OCC1=CC=C(C=C1)OC)C(C(CCC(=O)OC)C1=C(C=CC=C1)C)=O | C34H34O6
reactant | 2,3-dichloro-5,6-dicyanobenzoquinone | 0.34 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | phosphate | pH 7.3 | P(=O)([O-])([O-])[O-]
solvent | tert-butanol | 0.1 mL | C(C)(C)(C)O | C4H10O
solvent | water | 100 mL | O | H2O
product | (RS)-5-(3-benzyloxy-5-hydroxyphenyl)-4-(2-methylphenyl)-5-oxopentanoic acid | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)O)C(C(CCC(=O)O)C1=C(C=CC=C1)C)=O | C25H24O5
